US07179823B1
A mixture of ethyl 3-[1-[4-(2-methyl-4-thiazolylmethoxy]benzyl]-4-phenyl-3-pyrrolyl]propionate (368 mg), 1N aqueous sodium hydroxide solution (2 ml), tetrahydrofuran (4 ml), and ethanol (4 ml) was stirred at room temperature for 4 hours, and 1N hydrochloric acid (2 ml) was added to the mixture, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), then concentrated. The colorless crystals obtained were collected by filtration to yield 3-[1-[4-(2-methyl-4-thiazolylmethoxy]benzyl]-4-phenyl-3-pyrrolyl]propionic acid (251 mg, yield: 73%). This was recrystallized from ethanol-hexane. Melting point: 113–114° C.

reactant | ethyl 3-[1-[4-(2-methyl-4-thiazolylmethoxy]benzyl]-4-phenyl-3-pyrrolyl]propionate | 368 mg | CC=1SC=C(N1)COC1=CC=C(CN2C=C(C(=C2)C2=CC=CC=C2)CCC(=O)OCC)C=C1 | C27H28N2O3S
reactant | sodium hydroxide | 1N, 2 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 1N, 2 ml | Cl | ClH
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 3-[1-[4-(2-methyl-4-thiazolylmethoxy]benzyl]-4-phenyl-3-pyrrolyl]propionic acid | 251 mg, yield: 73% | CC=1SC=C(N1)COC1=CC=C(CN2C=C(C(=C2)C2=CC=CC=C2)CCC(=O)O)C=C1 | C25H24N2O3S
